US07230007B2
0.62 g (15 mmol) of lithium hydroxide monohydrate and 18 cm3 of water were added, at a temperature in the region of 20° C., to 1.6 g (5.0 mmol) of methyl 1-(2-methylquinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate in solution in 18 cm3 of tetrahydrofuran. After stirring at reflux of the solvent for 4 h, the reaction mixture was concentrated to dryness under reduced pressure (2.7 kPa) and the residue was taken up in 80 cm3 of water. The mixture was extracted with 30 cm3 of ethyl acetate and then the pH was adjusted to 3 by addition of 14 cm3 of a 1N hydrochloric acid solution. The precipitate obtained was filtered off, washed twice with 10 cm3 of water, pulled dry and then dried in a desiccator under reduced pressure at a temperature in the region of 20° C. for 4 days and under reduced pressure (2.7 kPa) at a temperature in the region of 50° C. for 12 h. 1.1 g of 1-(2-methylquinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid were thus obtained in the form of a yellow crystalline powder melting at a temperature of greater than 260° C. used directly in the following stage.

reactant | lithium hydroxide monohydrate | 15 mmol, 0.62 g | O.[OH-].[Li+]
reactant | water | 18 cm3 | O | H2O
reactant | methyl 1-(2-methylquinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 5.0 mmol, 1.6 g | CC1=NC2=CC=CC=C2C(=C1)N1C=C(C=2C1=NC=CC2)C(=O)OC | C19H15N3O2
solvent | tetrahydrofuran | 18 cm3 | O1CCCC1 | C4H8O
product | 1-(2-methylquinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 1.1 g | CC1=NC2=CC=CC=C2C(=C1)N1C=C(C=2C1=NC=CC2)C(=O)O | C18H13N3O2
